US04496741
t-Butyl-5-(p-fluorobenzoyl)-7-t-butoxycarbonyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (1 mmole) is dissolved in 5 ml of trifluoroacetic acid. The reaction mixture is heated at reflux for 5 hours before it is evaporated in vacuo to remove most of the solvent. The resulting oil is triturated with about 10 ml of water, filtered and dried in vacuo to afford 5-(p-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid.

reactant | t-Butyl-5-(p-fluorobenzoyl)-7-t-butoxycarbonyl-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | 1 mmole | C(C)(C)(C)OC(=O)C1C=2N(CC1)C(=CC2C(=O)OC(C)(C)C)C(C2=CC=C(C=C2)F)=O | C24H28FNO5
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(p-fluorobenzoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | FC1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)O)C=C1 | C15H12FNO3
